US04921851
On the other hand, 5.52 g of formic acid is added to 12.25 g of acetic anhydride at room temperature and the mixture is stirred at 45°-50° C. for 1 hour. After cooling, 60 ml of tetrahydrofuran and 5.83 g of the above-prepared crystals of 6-(2-aminoethylthio)imidazo[1,2-b]pyridazine are added and the mixture is stirred at room temperature for 1 hour. The solvent is distilled off under reduced pressure and the residue made basic with a saturated aqueous solution of sodium hydrogen carbonate. The precipitated crystals are collected by filtration to give 2.83 g of 6-(2-formylaminoethylthio)imidazo[1,2-b]pyridazine as colorless crystals melting at 148° to 151° C.

reactant | formic acid | 5.52 g | C(=O)O | CH2O2
reactant | acetic anhydride | 12.25 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-(2-aminoethylthio)imidazo[1,2-b]pyridazine | NCCSC=1C=CC=2N(N1)C=CN2 | C8H10N4S
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 6-(2-formylaminoethylthio)imidazo[1,2-b]pyridazine | 2.83 g | C(=O)NCCSC=1C=CC=2N(N1)C=CN2 | C9H10N4OS
